US07157487B2
(Step 7) Synthesis methyl 5-((2S,4S)-1-(tert-butoxycarbonyl)-4-fluoro-2-pyrrolidinylmethoxy)pentanoate
Methyl 5-((2S,4S)-1-(tert-butoxycarbonyl)-4-fluoro-2-pyrrolidinylmethoxy)-2-pentenoate (1.40 g, 4.22 mmol) and 5% palladium/carbon (wet.) (700 mg) were suspended in methanol (50 ml). Under stirring at room temperature, the resulting suspension was subjected to catalytic hydrogenation at normal pressure for 20 hours. The catalyst was filtered off and the filtrate was distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (silica gel: 20 g), whereby from hexane/ethyl acetate (4/1) eluate fractions, the title compound (1.09 g, 78%) was obtained as a colorless oil.

reactant | Methyl 5-((2S,4S)-1-(tert-butoxycarbonyl)-4-fluoro-2-pyrrolidinylmethoxy)-2-pentenoate | 4.22 mmol, 1.40 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)F)COCCC=CC(=O)OC | C16H26FNO5
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium/carbon | 700 mg | [Pd] | Pd
product | methyl 5-((2S,4S)-1-(tert-butoxycarbonyl)-4-fluoro-2-pyrrolidinylmethoxy)pentanoate | 1.09 g, 78% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)F)COCCCCC(=O)OC | C16H28FNO5
